US07842694B2
3-Hydroxy-5-{[(1S)-1-(hydroxymethyl)propyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
To a solution of 3-hydroxy-5-({(1S)-1-[(methyloxy)methyl]propyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide (500 mg, 1.6 mmol) in acetonitrile (25 mL), iodotrimethylsilane (1.11 mL, 7.8 mmol) was added and the resulting mixture stirred for 16 hours. Saturated sodium hydrogencarbonate solution (10 mL) was added, the solution stirred for 10 mins, saturated aqueous sodium thiosulfate (5 mL) was added then the acetonitrile was removed in vacuo. The residual aqueous layer was extracted with ethyl acetate (3×40 mL) and the organic layers combined, dried (MgSO4), filtered and evaporated and purified by column chromatography, eluting with 85% ethyl acetate in isohexane, to give the title compound as a colourless foam (405 mg). 1H NMR δ (d6-DMSO): 0.95 (t, 3H), 1.5-1.8 (m, 2H), 3.5 (m, 2H), 3.8 (s, 3H), 4.3 (m, 1H), 4.8 (t, 1H), 6.45 (s, 1H), 6.55 (s, 1H), 6.9 (s, 1H), 7.05 (s, 1H), 7.55 (s, 1H), 9.6 (s, 1H); m/z 306 (M+H)+

reactant | 3-hydroxy-5-({(1S)-1-[(methyloxy)methyl]propyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 1.6 mmol, 500 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H](CC)COC | C16H21N3O4
reactant | iodotrimethylsilane | 7.8 mmol, 1.11 mL | I[Si](C)(C)C | C3H9ISi
reactant | sodium hydrogencarbonate | 10 mL | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 3-Hydroxy-5-{[(1S)-1-(hydroxymethyl)propyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 405 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H](CC)CO | C15H19N3O4
